US08067445B2
Step 3: 2-(3-Bromo-5-chloro-phenyl)-propionyl chloride
To a solution of 2-(3-bromo-5-chloro-phenyl)-propionic acid (0.87 g, 3.3 mmol) in CH2Cl2 (10 mL) was added oxalyl chloride (0.63 mL, 6.6 mmol) and DMF (2 drops), and the reaction was stirred for 15 minutes and then concentrated to give the title compound.

reactant | 2-(3-bromo-5-chloro-phenyl)-propionic acid | 3.3 mmol, 0.87 g | BrC=1C=C(C=C(C1)Cl)C(C(=O)O)C | C9H8BrClO2
reactant | oxalyl chloride | 6.6 mmol, 0.63 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 2-(3-Bromo-5-chloro-phenyl)-propionyl chloride | BrC=1C=C(C=C(C1)Cl)C(C(=O)Cl)C | C9H7BrCl2O
